US07579368B2
To a solution of 3-hydroxy-4-iodo-benzoic acid (4 g, 15.15 mmol) in 2-butanone (100 mL) were added potassium carbonate (20 g, finely ground) and ethyl iodide (4.85 mL). The mixture was stirred at reflux overnight. Upon cooling to room temperature, the solids were filtered off, and the filtrate was concentrated. The residue was partitioned between ethyl acetate and water, and the organic layer was washed with 10% sodium carbonate solution, brine, and concentrated. The residue reconstituted in methanol. 1.0 M sodium hydroxide was added giving a cloudy solution. Tetrahydrofuran was added to clarity and the mixture stirred at room temperature for one hour. The volatiles were evaporated and the residue was dissolved in water. It was washed once with diethyl ether and then acidified with 37% hydrochloric acid to precipitate a white solid. The solid was filtered, washed with water and dried in a vacuum oven to give 3-ethoxy-4-iodo-benzoic acid (2.73 g, 62%). LC-MS: 293 [(M+H)+].

reactant | 3-hydroxy-4-iodo-benzoic acid | 15.15 mmol, 4 g | OC=1C=C(C(=O)O)C=CC1I | C7H5IO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 4.85 mL | C(C)I | C2H5I
reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
solvent | 2-butanone | 100 mL | CC(CC)=O | C4H8O
product | 3-ethoxy-4-iodo-benzoic acid | 2.73 g, 62% | C(C)OC=1C=C(C(=O)O)C=CC1I | C9H9IO3
